US05480873
1) 4-(5-Fluoro-2-methoxy phenyl)butanoic acid
4-Fluoroanisole (20 g) and ethyl succinyl chloride (28 g) were dissolved in nitromethane (70 ml). The solution was cooled in an ice +water bath and stirred under nitrogen. Aluminium chloride was added (30 g in 3×10 g portions) over 30 minutes. The cooling bath was removed and the reaction mixture was stirred under nitrogen for 5 hours. The reaction mixture was poured onto ice and extracted into ethyl acetate. The organic phase was collected and concentrated under reduced pressure. The crude product was taken up in ethyl acetate (150 ml) and washed with 2N sodium hydroxide solution (2×100 ml). The organic phase was dried over magnesium sulphate, filtered and the solvent removed under reduced pressure. The product was dissolved in acetic acid (200 ml) containing 47% perchloric acid (10 ml) and hydrogenated over 10% palladium on charcoal until two equivalents of hydrogen were taken up. The reaction mixture was filtered and concentrated under reduced pressure. The crude product was taken up in ethyl acetate and water. Sodium hydrogen carbonate was added until no reaction occurred then the organic phase was collected, dried and filtered. The solvent was removed at reduced pressure and the resulting dark oil was dissolved in methanol (120 ml). Sodium hydroxide (8 g) was added and the mixture was heated under reflux for 3 hours. Water (50 ml) was added and the mixture was washed with 1:1 ether/hexane (150 ml). The aqueous phase was acidified and the product was extracted into ethyl acetate. The organic phase was dried, filtered and evaporated under reduced pressure to give the product (19.5 g), as a dark oil that solidified on standing.

reactant | 4-Fluoroanisole | 20 g | FC1=CC=C(C=C1)OC | C7H7FO
reactant | ethyl succinyl chloride | 28 g | C(C)C(C(=O)Cl)CC(=O)Cl | C6H8Cl2O2
reactant | Aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrogen | two equivalents | [H][H] | H2
reactant | nitromethane | 70 ml | [N+](=O)([O-])C | CH3NO2
product | 4-(5-Fluoro-2-methoxy phenyl)butanoic acid | 19.5 g | FC=1C=CC(=C(C1)CCCC(=O)O)OC | C11H13FO3
